US07589087B2
Step B: Methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amine.
To a 0° C. solution of 4-(2-methylcarbamoyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (3.00 g, 11.1 mmol) in THF (100 mL) was added LiAlH4 pellets (1.69 g, 4.47 mmol). The mixture was stirred at 0° C. for 1 h, and then was heated at 70° C. for 4 h. The mixture was cooled to 0° C. and quenched sequentially (slowly) with water (1.7 mL), 10% NaOH (1.7 mL), and water (1.7 mL). The resulting slurry was filtered through diatomaceous earth and the filtrate was concentrated to yield 1.6 g (85%) of the product as a yellow oil. MS: mass calcd. for C10H22N2, 170.18; m/z found, 171.3 [M+H]+.

reactant | 4-(2-methylcarbamoyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 11.1 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(NC)=O | C14H26N2O3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl-[3-(1-methyl-piperidin-4-yl)-propyl]-amine | 1.6 g, 85% | CNCCCC1CCN(CC1)C | C10H22N2
